US06586617B1
Synthesis of N,N-bis(p-Toluenesulfonyl)-4-methoxy-2-nitroaniline (Compound No. 214)
To a solution of 4′-Methoxy-2′-nitro-p-toluenesulfonanilide (0.32 g (1.00 mmol)) in pyridine (1,0 ml), p-toluenesulfonyl chloride (0.20 g (1.05 mmol)) was added with stirring at room temperature. After 15 hours' stirring at room temperature, the reaction mixture was poured into water and crystals separated was filtered and washed to give 0.34 g (83%) of the title compound as pale yellow crystals.

reactant | 4′-Methoxy-2′-nitro-p-toluenesulfonanilide | 1.00 mmol, 0.32 g | COC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-] | C14H14N2O5S
reactant | p-toluenesulfonyl chloride | 1.05 mmol, 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | pyridine | 1,0 ml | N1=CC=CC=C1 | C5H5N
product | N,N-bis(p-Toluenesulfonyl)-4-methoxy-2-nitroaniline | 0.34 g, 83% | C1(=CC=C(C=C1)S(=O)(=O)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)C)C | C21H20N2O7S2
